US04034088
Phosphorus pentachloride (22.5 g.) dissolved in methylene chloride (150 cc.) is added dropwise and whilst cooling to 5° C., to a suspension of (2-mesyl-imidazol-1-yl)-acetic acid (12.3 g.) in methylene chloride (50 cc.). Dimethylformamide (2 cc.) is added thereafter and the mixture is then heated under reflux for 4 hours. The mixture is cooled to 10° C., the resulting solid is filtered off and washed with methylene chloride (15 ac.) to give (2-mesyl-imidazol- 1 -yl)-acetyl chloride (12.4 g.), m.p. 132°-133° C.

reactant | Phosphorus pentachloride | 22.5 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | (2-mesyl-imidazol-1-yl)-acetic acid | 12.3 g | S(=O)(=O)(C)C=1N(C=CN1)CC(=O)O | C6H8N2O4S
reactant | Dimethylformamide | 2 cc | CN(C=O)C | C3H7NO
solvent | methylene chloride | 150 cc | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 cc | C(Cl)Cl | CH2Cl2
product | (2-mesyl-imidazol- 1 -yl)-acetyl chloride | 12.4 g | S(=O)(=O)(C)C=1N(C=CN1)CC(=O)Cl | C6H7ClN2O3S
